US07199105B2
Preparation of 1-(2-Hydroxy-propyl)-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
DIEA (0.1 mL, 0.58 mmol, 1 equiv) and R(+)-propylene oxide (3 mL) were added to a stirred cool solution of crude 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide (307.6 mg, 0.58 mmol, 1 equiv), prepared as in Example 10, in anhydrous methanol (10 mL), at 0° C. and under nitrogen. The resulting solution was stirred at −4° C. for 18 h and evaporated to dryness. The residue obtained was purified by chromatography over silica gel, with an eluent of 6% methanolic ammonia in dichloromethane. The desired fractions were evaporated, and lyophilized (deuterium oxide/anhydrous acetonitrile, 1:1, v/v, 20 mL) to furnish the title compound as a fluffy white powder (91 mg, 48%).

reactant | DIEA | 0.58 mmol, 0.1 mL, 1 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 0.58 mmol, 307.6 mg, 1 equiv | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCCCC)C | C20H38N2O5S
reactant | methanol | 10 mL | CO | CH4O
product | 1-(2-Hydroxy-propyl)-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 91 mg, 48% | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCCCC)CC(C)O)C | C23H44N2O6S
